US07411072B2
8-Fluoro-5-methylene-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cycloheptene
Combine 8-fluoro-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-one (567 mg, 2.47 mmol) and anhydrous tetrahydrofuran (25 mL). Chill the solution to 0° C. and add Tebbe reagent (0.5M/L solution in toluene, 5.4 mL, 2.72 mmol). Remove cooling and stir the admixture for 10 min. Quench the reaction by adding saturated aqueous Rochelle's salt solution (75 mL). Stir the biphasic mixture rapidly for 10 min, then separate the layers and extract the aqueous layer with ethyl acetate. Dry the combined organic layers with magnesium sulfate, filter and strip. Purify the crude product by flash chromatography (25% ethyl acetate/hexanes) to provide 416 mg(74%) of purified product. LCMS (APCI-pos): 228.1 (M+H). LCMS (APCI-neg): 226.9 (M−H).

reactant | 8-fluoro-11H-10-oxa-1-aza-dibenzo[a,d]cyclohepten-5-one | 2.47 mmol, 567 mg | FC=1C=CC2=C(OCC3=C(C2=O)C=CC=N3)C1 | C13H8FNO2
reactant | Rochelle's salt | 75 mL | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
catalyst | Tebbe reagent | 2.72 mmol, 5.4 mL | [CH3-].C[Al+]C.[CH-]1C=CC=C1.[CH-]1C=CC=C1.[Cl-].[Ti+3]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 8-Fluoro-5-methylene-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cycloheptene | 416 mg, 74% | FC=1C=CC2=C(OCC3=C(C2=C)C=CC=N3)C1 | C14H10FNO
